US08492378B2
2-methyl-5-[3-[4-[(methylthio)methoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
To a solution of 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol (1.17 g, 4.00 mmol) in N,N-dimethylformamide (15 mL) was added sodium hydride (60% in oil, 0.320 g, 8.00 mmol) at room temperature, and the resulting mixture was stirred for 15 min. (Chloromethyl) methyl sulfide (90%, 0.744 mL, 8.00 mmol) was added to the reaction mixture, and the resulting mixture was further stirred for 1 hr. The reaction mixture was diluted with ethyl acetate, washed twice with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=2/1) and recrystallized from methanol to give the title compound (1.22 g, yield 87%) as colorless crystals.

reactant | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol | 4.00 mmol, 1.17 g | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)O)C1 | C17H12N2O3
reactant | sodium hydride | 8.00 mmol, 0.320 g | [H-].[Na+]
reactant | (Chloromethyl) methyl sulfide | 8.00 mmol, 0.744 mL | CSCCl | C2H5ClS
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-[3-[4-[(methylthio)methoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 1.22 g, yield 87% | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OCSC)C1 | C19H16N2O3S
